US07338958B2
a) Production of (RS)-S-(4-aminophenyl)-S-methyl sulfoximide
A solution of 2.45 g (12.2 mmol) of (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide in 150 ml of ethanol is hydrogenated at room temperature with use of 0.80 g of Pd/C (10%×50% H2O) under a hydrogen atmosphere at normal pressure over 4 hours. The hydrogen absorption is 920 ml. The batch is filtered and concentrated by evaporation. The residue that is obtained is digested with diisopropyl ether. 1.90 g (11.2 mmol, corresponding to 92% of theory) is obtained.

reactant | (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide | 12.2 mmol, 2.45 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.80 g | [Pd] | Pd
product | (RS)-S-(4-aminophenyl)-S-methyl sulfoximide | NC1=CC=C(C=C1)S(=O)(=N)C | C7H10N2OS
